US07317009B2
To a suspension of 7-chloro-4-(4-fluorophenyl)-2-isopropylpyrrolo[1,2-b]pyridazine-3-carbaldehyde (40 mg) in ethanol (1 mL) was added 2-aminoethanol (11.8 mg), sodium cyanoborohydride (12.1 mg), and acetic acid (1 drop) in an ice-water bath. After 10 minutes, the mixture was stirred at ambient temperature. After 2 hours, sodium cyanoborohydride (11.8 mg) was added and the reaction mixture was acidified to pH4 with acetic acid (5 drops). After stirring overnight, the reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with saturated sodium bicarbonate, water, and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by p-TLC (chloroform-methanol=10-1) to give 2-({[7-chloro-4-(4-fluorophenyl)-2-isopropylpyrrolo[1,2-b]pyridazin-3-yl]methyl}amino)ethanol as pale yellow oil (21 mg).

reactant | 7-chloro-4-(4-fluorophenyl)-2-isopropylpyrrolo[1,2-b]pyridazine-3-carbaldehyde | 40 mg | ClC1=CC=C2N1N=C(C(=C2C2=CC=C(C=C2)F)C=O)C(C)C | C17H14ClFN2O
reactant | 2-aminoethanol | 11.8 mg | NCCO | C2H7NO
reactant | sodium cyanoborohydride | 12.1 mg | C(#N)[BH3-].[Na+]
reactant | sodium cyanoborohydride | 11.8 mg | C(#N)[BH3-].[Na+]
solvent | ethanol | 1 mL | C(C)O | C2H6O
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
catalyst | acetic acid | 5 drops | C(C)(=O)O | C2H4O2
product | 2-({[7-chloro-4-(4-fluorophenyl)-2-isopropylpyrrolo[1,2-b]pyridazin-3-yl]methyl}amino)ethanol | 21 mg | ClC1=CC=C2N1N=C(C(=C2C2=CC=C(C=C2)F)CNCCO)C(C)C | C19H21ClFN3O
